US08791132B2
2-(2-Allyl-8-chloro-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethanol (4.0 g, 10.87 mmol) was dissolved in DCM (350 mL) and nitrogen was purged for 10 min into the reaction mixture. 1,3-Dimethyl barbituric acid (5.08 g, 32.62 mmol) and Pd(PPh3)4 (251 mg, 0.217 mmol) was added and stirred for 2 h at RT. After consumption of starting material, the reaction mixture was diluted with saturated potassium carbonate (200 mL) and extracted with DCM (2×100 mL). The combined organic layer was dried over anhydrous sodium sulfate and concentrated, and the crude mixture crystallized in MeOH (5 mL) and ether (50 mL) to obtain 2.2 g of 2-(8-chloro-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethanol. 1H NMR (CDCl3, freebase) δ (ppm): 8.58 (d, 2H), 7.37 (s, 1H), 7.25 (d, 2H), 7.23 (d, 1H), 7.13 (d, 1H), 5.0 (t, 1H), 4.15 (d, 2H), 3.99 (s, 2H), 3.19 (m, 2H), 2.81 (m, 1H), 2.53 (m, 1H). Separation by chiral HPLC provided enantiomers 10a and 10b. Optical rotations: Compound 10a, (−)34.60 (c 0.55, Chloroform, 99.16% HPLC purity); Compound 10b, (+)31.78 (c 0.53, Chloroform, 92.71% HPLC purity).

reactant | 2-(2-Allyl-8-chloro-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethanol | 10.87 mmol, 4.0 g | C(C=C)N1CC2=C(N(C=3C=CC(=CC23)Cl)CC(O)C2=CC=NC=C2)CC1 | C21H22ClN3O
reactant | 1,3-Dimethyl barbituric acid | 32.62 mmol, 5.08 g | CN1C(=O)N(C(=O)CC1=O)C | C6H8N2O3
solvent | DCM | 350 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd(PPh3)4 | 0.217 mmol, 251 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(8-chloro-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethanol | 2.2 g | ClC1=CC=2C3=C(N(C2C=C1)CC(O)C1=CC=NC=C1)CCNC3 | C18H18ClN3O
